US07648985B2
(i) 1,2-Difluoro-4-(2-methoxy-vinyl)-benzene
Potassium tert butoxide (11 g, 0.098 mol) was added to methoxymethyl triphenyl phosphonium chloride (31.12 g, 0.091 mol) in 150 ml of dry THF at −30° C. under argon atmosphere and stirred for 1 h. 3,4-difluorobenzaldehyde (10 g, 0.07 mol) in 60 ml of THF was added dropwise at the same temperature and stirring continued for 3 h at room temperature. The reaction mixture was treated with 100 ml water, 150 ml petroleum ether and filtered through celite. Organic layer was separated and aq. layer was extracted with petroleum ether (2×100 ml). Combined organic layer was washed with brine and dried over sodium sulfate. Solvent evaporation under reduced pressure followed by purification over silica gel using petroleum ether as eluent afforded (5.5 g) of the sub-titles compound as a colorless liquid.

reactant | Potassium tert butoxide | 0.098 mol, 11 g | CC(C)([O-])C.[K+]
reactant | methoxymethyl triphenyl phosphonium chloride | 0.091 mol, 31.12 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3,4-difluorobenzaldehyde | 0.07 mol, 10 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | water | 100 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1,2-Difluoro-4-(2-methoxy-vinyl)-benzene | 5.5 g | FC1=C(C=C(C=C1)C=COC)F | C9H8F2O
